US04332724
A 2.94 g sample of benzoyl isocyanate in 5 ml of CH2Cl2 is added to 3.04 g of 4,5,6,7-tetrahydrobenzo[b]thiophen-4-amine in 50 ml of CH2Cl2 under N2 atmosphere. After stirring overnight at room temperature, the reaction mixture is evaporated to dryness in vacuo. The residue is then stirred in 100 ml of Et2O and filtered to afford 1-benzoyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea, m.p. 189° C. to 194° C. Substitution of trichloroacetyl isocyanate for benzoyl isocyanate affords 1-trichloroacetyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea. Use of 4,5,6,7-tetrahydrobenzo[b]thien-4-ylisocyanate and acetamide in the above manner affords 1-acetyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea.

reactant | 4,5,6,7-tetrahydrobenzo[b]thien-4-ylisocyanate | S1C2=C(C=C1)C(CCC2)N=C=O | C9H9NOS
reactant | acetamide | C(C)(=O)N | C2H5NO
product | 1-acetyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | C(C)(=O)NC(=O)NC1CCCC=2SC=CC21 | C11H14N2O2S
